US07470713B2
tert-Butyl 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylate:
2,3-Dioxo-butyric acid tert-butyl ester (0.293 g, 1.54 mmol) and 4-iodo-2-methoxy-pyridine-3-carbaldehyde (0.405 g, 1.54 mmol) were reacted as described for the synthesis of 2-(4-iodo-2-methoxy-pyridin-3-yl)-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester to give the title material (0.303 g, 47%). 1H NMR (400 MHz, DMSO-d6) δ (ppm) 1.58 (s, 9H) 2.46 (s, 3H) 3.85 (s, 3H) 7.64 (d, J=5.31 Hz, 1H) 8.00 (d, J=5.31 Hz, 1H).

reactant | 2,3-Dioxo-butyric acid tert-butyl ester | 1.54 mmol, 0.293 g | C(C)(C)(C)OC(C(C(C)=O)=O)=O | C8H12O4
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 1.54 mmol, 0.405 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
reactant | 2-(4-iodo-2-methoxy-pyridin-3-yl)-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=NC1C)C=1C(=NC=CC1I)OC | C13H14IN3O3
product | tert-Butyl 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylate | 0.303 g, 47% | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)OC(C)(C)C | C15H18IN3O3
